US06462036B1
A solution of 4-(1H-[1]benzothieno[3,2-c]pyrazol-3-yl)benzaldehyde (0.1 g 0.36 mmol), 3-(imidazol-1-yl)propylamine (0.058 g, 0.47 mmol) and glacial acetic acid (0.03 ml, 0.47 mmol) in 1,2-dichloroethane was stirred at room temp for about 1 hr. Solid sodium triacetoxyborohydride (0.084 g, 0.4 mmol) was then added in one portion and the resulting mixture stirred for about 16 hrs at room temp. An additional portion of sodium triacetoxyborohydride (0.084 g, 0.4 mmol) was added and the mixture stirred for another 24 hrs. The reaction mixture was poured onto a solution of saturated sodium bicarbonate (20 ml) and stirred for about 30 mins, the layers separated and the aqueous layer extracted with dichloromethane (2×50 ml). The combined extracts and organic layer were washed with water (1×25 ml), dried (MgSO4), filtered and concentrated in vacuo to give a waxy solid which was taken up in ethanol. Two drops of hydrochloric acid (conc) were added, the solution cooled and scratched to give a solid which was removed by filtration, dried in vacuo to give 4-(1H-[1]benzothieno[3,2-c]pyrazol-3-yl)-N-[3-(imidazol-1-yl)propyl]benzylamine trihydrochloride (0.09 g, 50%) Mpt 206-208° C.

reactant | 4-(1H-[1]benzothieno[3,2-c]pyrazol-3-yl)benzaldehyde | 0.36 mmol, 0.1 g | N1N=C(C2=C1C1=C(S2)C=CC=C1)C1=CC=C(C=O)C=C1 | C16H10N2OS
reactant | 3-(imidazol-1-yl)propylamine | 0.47 mmol, 0.058 g | N1(C=NC=C1)CCCN | C6H11N3
reactant | acetic acid | 0.47 mmol, 0.03 ml | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.4 mmol, 0.084 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium triacetoxyborohydride | 0.4 mmol, 0.084 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | 20 ml | C([O-])(O)=O.[Na+]
reactant | 1,2-dichloroethane | ClCCCl | C2H4Cl2
solvent | ethanol | C(C)O | C2H6O
catalyst | hydrochloric acid | Two drops | Cl | ClH
product | 4-(1H-[1]benzothieno[3,2-c]pyrazol-3-yl)-N-[3-(imidazol-1-yl)propyl]benzylamine trihydrochloride | 0.09 g, 50% | Cl.Cl.Cl.N1N=C(C2=C1C1=C(S2)C=CC=C1)C1=CC=C(CNCCCN2C=NC=C2)C=C1 | InChI=1S/C22H21N5S.3ClH/c1-2-5-19-18(4-1)21-22(28-19)20(25-26-21)17-8-6-16(7-9-17)14-23-10-3-12-27-13-11-24-15-27;;;/h1-2,4-9,11,13,15,23H,3,10,12,14H2,(H,25,26);3*1H
